US05965749
In a glass pressure bottle, 2,6-dichlorobenzaldehyde (13.5 g, 0.075 mol) and TBAB (0.4 g) was added to a solution of 2-mercaptoacetic acid (7 ml) in potassium hydroxide (12.5 g) and water (100 ml). The bottle was then sealed and heated in a hot oil bath at 255° F. and 20 psi for 1 hour The bottle was then removed from the hot oil bath and cooled. A pale yellow precipitate was obtained in the bottle. At ambient temperature, the bottle was opened and sufficient water was added to dissolve the precipitate. The resultant aqueous material was washed with ether and then acidified with hydrochloric acid to produce a pale yellow solid. The pale yellow solid was collected on a filter, washed with water and dried, to produce 18.1 g of 4-chloro-2-benzo[b]thiophenecarboxylic acid (85.2% yield, mp 227-231° C.).

reactant | 2,6-dichlorobenzaldehyde | 0.075 mol, 13.5 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 2-mercaptoacetic acid | 7 ml | SCC(=O)O | C2H4O2S
catalyst | TBAB | 0.4 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | potassium hydroxide | 12.5 g | [OH-].[K+]
solvent | water | 100 ml | O | H2O
product | 4-chloro-2-benzo[b]thiophenecarboxylic acid | 18.1 g, 85.2% yield | ClC1=CC=CC=2SC(=CC21)C(=O)O | C9H5ClO2S
